US08859732B2
Fmoc-Leu-Leu-OBzl (2-MeO-4-OC12OC22) (1.02 g) was dissolved in chloroform (10 mL), and diethylamine (1.94 mL, 18.7 mmol) was added dropwise under ice-cooling. The mixture was warmed to room temperature, acetonitrile (5 mL) was added, and the mixture was stirred for 2.5 hr. Diethylamine (970 μL, 9.35 mmol) was added, and the mixture was further stirred for 1 hr. The reaction mixture was concentrated under reduced pressure, and the residue was precipitated with acetonitrile (10 mL) to give Leu-Leu-OBzl (2-MeO-4-OC12OC22) as wet crystals.

reactant | Fmoc-Leu-Leu-OBzl | 1.02 g | N([C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1)C(=O)OCC1C2=CC=CC=C2C2=CC=CC=C12 | C34H40N2O5
reactant | diethylamine | 18.7 mmol, 1.94 mL | C(C)NCC | C4H11N
reactant | acetonitrile | 5 mL | C(C)#N | C2H3N
reactant | Diethylamine | 9.35 mmol, 970 μL | C(C)NCC | C4H11N
solvent | chloroform | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | Leu-Leu-OBzl | N[C@@H](CC(C)C)C(=O)N[C@@H](CC(C)C)C(=O)OCC1=CC=CC=C1 | C19H30N2O3
